* File: INVD2.cdl.pex
* Created: Mon Dec 22 20:13:29 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD2%net10 13 17 39 41 48 51 58 59 61 68 71 78 82 84 89 90 91 92 93
+ 94 95
r42 104 107 0.0984
r43 101 104 0.0984
r44 97 101 0.0984
r45 93 95 0.266131
r46 93 94 21.2905
r47 77 78 0.62445
r48 77 92 0.62445
r49 71 84 0.0151417
r50 71 78 0.624484
r51 70 83 0.231882
r52 69 84 0.231882
r53 69 70 0.53136
r54 67 68 0.62445
r55 67 91 0.62445
r56 61 83 0.0151417
r57 61 68 0.624484
r58 60 82 0.231882
r59 59 83 0.231882
r60 59 60 0.53136
r61 57 58 0.62445
r62 57 90 0.62445
r63 51 82 0.0151417
r64 51 58 0.624484
r65 50 81 0.231882
r66 49 82 0.231882
r67 49 50 0.53136
r68 47 48 0.62445
r69 47 89 0.62445
r70 41 81 0.0151417
r71 41 48 0.624484
r72 39 81 0.231882
r73 39 40 0.92988
r74 37 107 1
r75 35 104 1
r76 35 37 0.2952
r77 33 101 1
r78 33 35 0.2952
r79 30 31 0.9594
r80 29 97 1
r81 29 33 0.2952
r82 29 31 0.9594
r83 27 40 0.260498
r84 27 30 0.9594
r85 17 107 1
r86 17 95 7.17942
r87 15 104 1
r88 15 17 5.2214
r89 13 101 1
r90 13 15 5.2214
r91 11 97 1
r92 11 95 2.74292
r93 11 13 5.2214
r94 5 94 7.46165
r95 5 94 13.0535
r96 1 95 1.91854
r97 1 93 29.3704
.ends

.subckt PM_INVD2%VSS 1 101 102 103 104 105 106
r16 115 118 0.126514
r17 112 115 0.126514
r18 108 112 0.126514
r19 97 118 1
r20 95 115 1
r21 95 97 0.2952
r22 93 112 1
r23 93 95 0.2952
r24 90 108 1
r25 90 93 0.2952
r26 88 97 0.2214
r27 87 98 0.397738
r28 86 88 0.260498
r29 86 87 0.8856
r30 82 98 0.0706443
r31 82 102 0.474429
r32 80 98 0.397738
r33 80 81 0.53136
r34 76 81 0.327655
r35 76 101 0.474429
r36 59 106 13.5974
r37 58 59 13.5974
r38 55 75 2.30802
r39 55 58 13.5974
r40 51 106 3.26338
r41 51 106 29.3704
r42 50 72 4.57327
r43 49 75 4.57327
r44 49 50 33.0689
r45 48 105 13.5974
r46 47 48 13.5974
r47 44 72 2.30802
r48 44 47 13.5974
r49 40 105 3.26338
r50 40 105 29.3704
r51 38 39 15.954
r52 37 38 15.954
r53 36 72 4.57327
r54 36 39 15.9549
r55 34 118 1
r56 34 104 15.0708
r57 32 115 1
r58 32 34 8.70233
r59 30 112 1
r60 30 32 8.70233
r61 27 28 23.9314
r62 26 108 1
r63 26 30 8.70233
r64 26 28 23.9314
r65 22 27 23.9314
r66 18 104 3.26338
r67 18 104 13.9123
r68 16 17 19.7251
r69 15 62 5.52744
r70 15 16 19.7251
r71 14 17 19.7256
r72 10 103 3.26338
r73 10 103 13.9123
r74 9 103 27.9718
r75 8 9 27.9718
r76 4 62 1.43649
r77 4 8 27.9718
r78 1 22 1.43649
r79 1 14 5.52744
r80 1 37 5.52744
.ends

.subckt PM_INVD2%VDD 1 12 24 33 45 46 47
r21 33 44 2.30802
r22 33 47 26.1059
r23 27 47 3.26338
r24 27 47 29.3704
r25 26 41 4.57327
r26 25 44 4.57327
r27 25 26 33.0689
r28 24 41 2.30802
r29 24 46 26.1059
r30 18 46 3.26338
r31 18 46 29.3704
r32 16 17 15.5772
r33 14 38 4.57327
r34 14 16 15.5772
r35 13 41 4.57327
r36 12 38 2.30802
r37 12 45 26.1059
r38 6 45 3.26338
r39 6 45 29.3704
r40 1 13 38.5513
r41 1 17 15.5772
.ends

.subckt PM_INVD2%OUT 1 7 18 32 52 54 55 56 57 58 59
r33 52 53 0.755993
r34 52 59 0.755993
r35 46 57 0.755993
r36 46 55 6.04794
r37 43 55 0.755993
r38 42 43 0.755993
r39 41 58 6.52456
r40 35 54 6.52456
r41 32 53 15.4223
r42 32 41 19.5802
r43 27 52 10.3074
r44 27 59 29.3704
r45 23 58 3.26338
r46 23 58 29.3704
r47 19 57 10.3074
r48 19 57 29.3704
r49 18 46 15.4223
r50 18 56 11.4207
r51 12 56 3.26338
r52 12 56 29.3704
r53 8 43 10.3074
r54 8 55 29.3704
r55 7 42 15.4223
r56 7 35 19.5802
r57 2 54 3.26338
r58 2 54 29.3704
r59 1 59 1.25495
r60 1 57 5.54899
.ends

.subckt PM_INVD2%IN 15 22 23 25 32 37 44 45 47 54 57 64 65 67 74 86 87 88 89 90
+ 91 92
r46 100 102 0.17712
r47 98 100 0.17712
r48 92 98 0.008856
r49 92 94 0.168264
r50 73 74 0.62445
r51 73 91 0.62445
r52 67 74 0.624484
r53 66 79 0.231882
r54 65 67 0.252919
r55 65 66 0.53136
r56 63 64 0.62445
r57 63 90 0.62445
r58 57 79 0.0151417
r59 57 64 0.624484
r60 56 78 0.231882
r61 55 79 0.231882
r62 55 56 0.53136
r63 53 54 0.62445
r64 53 89 0.62445
r65 47 78 0.0151417
r66 47 54 0.624484
r67 46 77 0.231882
r68 45 78 0.231882
r69 45 46 0.53136
r70 43 44 0.62445
r71 43 88 0.62445
r72 37 77 0.0151417
r73 37 44 0.624484
r74 35 36 1.06272
r75 34 76 0.231882
r76 34 35 1.06272
r77 33 77 0.231882
r78 33 36 1.06272
r79 31 32 0.62445
r80 31 87 0.62445
r81 25 76 0.0151417
r82 25 32 0.624484
r83 24 75 0.231882
r84 23 76 0.231882
r85 23 24 0.53136
r86 21 22 0.62445
r87 21 86 0.62445
r88 15 75 0.0151417
r89 15 22 0.624484
r90 13 75 0.231882
r91 13 14 1.19556
r92 11 12 0.368994
r93 10 102 1
r94 10 11 0.368994
r95 8 100 1
r96 8 10 0.17712
r97 6 98 1
r98 6 8 0.17712
r99 3 94 1
r100 3 6 0.17712
r101 1 14 0.311719
r102 1 12 0.369012
.ends

