* File: INVD8.cdl.pex
* Created: Mon Dec 22 20:56:18 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD8%net10 37 41 62 76 78 85 88 95 96 98 105 108 115 116 118 125 128
+ 135 136 138 145 148 155 156 158 165 168 175 176 178 185 188 195 196 198 205
+ 208 215 216 218 225 228 235 267 268 269 270 271 272 273 274 275 276 277 278
+ 279 280 281 282 283 284 285 286 287 288 289 290 291
r154 300 303 0.0984
r155 297 300 0.0984
r156 293 297 0.0984
r157 234 235 0.62445
r158 234 282 0.62445
r159 228 235 0.624484
r160 227 250 0.231882
r161 226 228 0.252919
r162 226 227 0.53136
r163 224 225 0.62445
r164 224 281 0.62445
r165 218 250 0.0151417
r166 218 225 0.624484
r167 217 249 0.231882
r168 216 250 0.231882
r169 216 217 0.53136
r170 214 215 0.62445
r171 214 280 0.62445
r172 208 249 0.0151417
r173 208 215 0.624484
r174 207 248 0.231882
r175 206 249 0.231882
r176 206 207 0.53136
r177 204 205 0.62445
r178 204 279 0.62445
r179 198 248 0.0151417
r180 198 205 0.624484
r181 197 247 0.231882
r182 196 248 0.231882
r183 196 197 0.53136
r184 194 195 0.62445
r185 194 278 0.62445
r186 188 247 0.0151417
r187 188 195 0.624484
r188 187 246 0.231882
r189 186 247 0.231882
r190 186 187 0.53136
r191 184 185 0.62445
r192 184 277 0.62445
r193 178 246 0.0151417
r194 178 185 0.624484
r195 177 245 0.231882
r196 176 246 0.231882
r197 176 177 0.53136
r198 174 175 0.62445
r199 174 276 0.62445
r200 168 245 0.0151417
r201 168 175 0.624484
r202 167 244 0.231882
r203 166 245 0.231882
r204 166 167 0.53136
r205 164 165 0.62445
r206 164 275 0.62445
r207 158 244 0.0151417
r208 158 165 0.624484
r209 157 243 0.231882
r210 156 244 0.231882
r211 156 157 0.53136
r212 154 155 0.62445
r213 154 274 0.62445
r214 148 243 0.0151417
r215 148 155 0.624484
r216 147 242 0.231882
r217 146 243 0.231882
r218 146 147 0.53136
r219 144 145 0.62445
r220 144 273 0.62445
r221 138 242 0.0151417
r222 138 145 0.624484
r223 137 241 0.231882
r224 136 242 0.231882
r225 136 137 0.53136
r226 134 135 0.62445
r227 134 272 0.62445
r228 128 241 0.0151417
r229 128 135 0.624484
r230 127 240 0.231882
r231 126 241 0.231882
r232 126 127 0.53136
r233 124 125 0.62445
r234 124 271 0.62445
r235 118 240 0.0151417
r236 118 125 0.624484
r237 117 239 0.231882
r238 116 240 0.231882
r239 116 117 0.53136
r240 114 115 0.62445
r241 114 270 0.62445
r242 108 239 0.0151417
r243 108 115 0.624484
r244 107 238 0.231882
r245 106 239 0.231882
r246 106 107 0.53136
r247 104 105 0.62445
r248 104 269 0.62445
r249 98 238 0.0151417
r250 98 105 0.624484
r251 97 237 0.231882
r252 96 238 0.231882
r253 96 97 0.53136
r254 94 95 0.62445
r255 94 268 0.62445
r256 88 237 0.0151417
r257 88 95 0.624484
r258 87 236 0.231882
r259 86 237 0.231882
r260 86 87 0.53136
r261 84 85 0.62445
r262 84 267 0.62445
r263 78 236 0.0151417
r264 78 85 0.624484
r265 76 236 0.231882
r266 76 77 0.92988
r267 74 303 1
r268 72 300 1
r269 72 74 0.2952
r270 70 297 1
r271 70 72 0.2952
r272 67 68 0.9594
r273 66 293 1
r274 66 70 0.2952
r275 66 68 0.9594
r276 64 77 0.260498
r277 64 67 0.9594
r278 62 63 1.15433
r279 62 291 13.6032
r280 59 62 3.07822
r281 59 290 10.1814
r282 58 59 3.84777
r283 58 289 10.1814
r284 56 58 7.69555
r285 56 288 10.1814
r286 53 56 0.769555
r287 53 287 10.1814
r288 52 53 6.926
r289 52 286 10.1814
r290 49 52 5.38689
r291 49 285 10.1814
r292 48 49 1.53911
r293 48 284 15.2867
r294 46 48 0.769555
r295 41 303 1
r296 41 291 7.17942
r297 39 300 1
r298 39 41 5.2214
r299 37 297 1
r300 37 39 5.2214
r301 35 293 1
r302 35 63 8.62641
r303 35 37 5.2214
r304 29 59 10.1814
r305 29 290 13.0535
r306 25 58 10.1814
r307 25 289 29.3704
r308 21 56 10.1814
r309 21 288 29.3704
r310 17 53 10.1814
r311 17 287 13.0535
r312 13 52 10.1814
r313 13 286 29.3704
r314 9 49 10.1814
r315 9 285 13.0535
r316 5 46 10.1814
r317 5 284 29.3704
r318 1 46 10.0042
r319 1 283 10.1814
r320 1 283 13.0535
.ends

.subckt PM_INVD8%VSS 1 275 276 277 278 279 280 281 282 283 284 285 286 287 288
+ 289 290 291 292 293 294 295
r64 304 307 0.126514
r65 301 304 0.126514
r66 297 301 0.126514
r67 259 307 1
r68 257 304 1
r69 257 259 0.2952
r70 255 301 1
r71 255 257 0.2952
r72 252 297 1
r73 252 255 0.2952
r74 250 259 0.2214
r75 249 266 0.397738
r76 248 250 0.260498
r77 248 249 0.8856
r78 244 266 0.0706443
r79 244 282 0.474429
r80 243 265 0.397738
r81 242 266 0.397738
r82 242 243 0.53136
r83 238 265 0.0706443
r84 238 281 0.474429
r85 237 264 0.397738
r86 236 265 0.397738
r87 236 237 0.53136
r88 232 264 0.0706443
r89 232 280 0.474429
r90 231 263 0.397738
r91 230 264 0.397738
r92 230 231 0.53136
r93 226 263 0.0706443
r94 226 279 0.474429
r95 225 262 0.397738
r96 224 263 0.397738
r97 224 225 0.53136
r98 220 262 0.0706443
r99 220 278 0.474429
r100 219 261 0.397738
r101 218 262 0.397738
r102 218 219 0.53136
r103 214 261 0.0706443
r104 214 277 0.474429
r105 213 260 0.397738
r106 212 261 0.397738
r107 212 213 0.53136
r108 208 260 0.0706443
r109 208 276 0.474429
r110 206 260 0.397738
r111 206 207 0.53136
r112 202 207 0.327655
r113 202 275 0.474429
r114 164 283 5.33573
r115 159 295 13.5974
r116 158 159 13.5974
r117 155 201 2.30802
r118 155 158 13.5974
r119 151 295 3.26338
r120 151 295 29.3704
r121 150 198 4.57327
r122 149 201 4.57327
r123 149 150 33.0689
r124 148 294 13.5974
r125 147 148 13.5974
r126 144 198 2.30802
r127 144 147 13.5974
r128 140 294 3.26338
r129 140 294 29.3704
r130 139 195 4.57327
r131 138 198 4.57327
r132 138 139 33.0689
r133 137 293 13.5974
r134 136 137 13.5974
r135 133 195 2.30802
r136 133 136 13.5974
r137 129 293 3.26338
r138 129 293 29.3704
r139 128 192 4.57327
r140 127 195 4.57327
r141 127 128 33.0689
r142 126 292 13.5974
r143 125 126 13.5974
r144 122 192 2.30802
r145 122 125 13.5974
r146 118 292 3.26338
r147 118 292 29.3704
r148 117 189 4.57327
r149 116 192 4.57327
r150 116 117 33.0689
r151 115 291 13.5974
r152 114 115 13.5974
r153 111 189 2.30802
r154 111 114 13.5974
r155 107 291 3.26338
r156 107 291 29.3704
r157 106 186 4.57327
r158 105 189 4.57327
r159 105 106 33.0689
r160 104 290 13.5974
r161 103 104 13.5974
r162 100 186 2.30802
r163 100 103 13.5974
r164 96 290 3.26338
r165 96 290 29.3704
r166 95 183 4.57327
r167 94 186 4.57327
r168 94 95 33.0689
r169 93 289 13.5974
r170 92 93 13.5974
r171 89 183 2.30802
r172 89 92 13.5974
r173 85 289 3.26338
r174 85 289 29.3704
r175 84 180 4.57327
r176 83 183 4.57327
r177 83 84 33.0689
r178 82 288 13.5974
r179 81 82 13.5974
r180 78 180 2.30802
r181 78 81 13.5974
r182 74 288 3.26338
r183 74 288 29.3704
r184 72 177 5.52744
r185 71 180 4.57327
r186 69 307 1
r187 69 287 15.0708
r188 67 304 1
r189 67 69 8.70233
r190 65 301 1
r191 65 67 8.70233
r192 62 63 23.9314
r193 61 297 1
r194 61 65 8.70233
r195 61 63 23.9314
r196 57 177 1.43649
r197 57 62 23.9314
r198 53 287 3.26338
r199 53 287 13.9123
r200 51 52 19.7251
r201 50 173 4.57327
r202 50 51 19.7251
r203 49 177 5.52744
r204 49 52 19.7256
r205 48 286 24.4753
r206 47 48 24.4753
r207 44 173 2.30802
r208 44 47 24.4753
r209 40 286 3.26338
r210 40 286 13.0535
r211 38 39 19.7251
r212 37 170 4.57327
r213 37 38 19.7251
r214 36 173 4.57327
r215 36 39 19.7256
r216 35 285 24.4753
r217 34 35 24.4753
r218 31 170 2.30802
r219 31 34 24.4753
r220 27 285 3.26338
r221 27 285 13.0535
r222 25 26 19.7251
r223 24 167 4.57327
r224 24 25 19.7251
r225 23 170 4.57327
r226 23 26 19.7256
r227 22 284 24.4753
r228 21 22 24.4753
r229 18 167 2.30802
r230 18 21 24.4753
r231 14 284 3.26338
r232 14 284 13.0535
r233 12 13 21.4656
r234 11 12 21.4656
r235 10 167 4.57327
r236 10 13 21.466
r237 6 283 3.26338
r238 6 283 9.79012
r239 5 164 39.1605
r240 4 5 39.1605
r241 2 11 7.29337
r242 2 4 39.1605
r243 1 71 25.933
r244 1 72 21.9299
.ends

.subckt PM_INVD8%VDD 1 14 23 32 41 53 62 71 80 89 98 107 116 155 156 157 158 159
+ 160 161 162 163 164 165 166
r84 116 154 2.30802
r85 116 166 26.1059
r86 110 166 3.26338
r87 110 166 29.3704
r88 109 151 4.57327
r89 108 154 4.57327
r90 108 109 33.0689
r91 107 151 2.30802
r92 107 165 26.1059
r93 101 165 3.26338
r94 101 165 29.3704
r95 100 148 4.57327
r96 99 151 4.57327
r97 99 100 33.0689
r98 98 148 2.30802
r99 98 164 26.1059
r100 92 164 3.26338
r101 92 164 29.3704
r102 91 145 4.57327
r103 90 148 4.57327
r104 90 91 33.0689
r105 89 145 2.30802
r106 89 163 26.1059
r107 83 163 3.26338
r108 83 163 29.3704
r109 82 142 4.57327
r110 81 145 4.57327
r111 81 82 33.0689
r112 80 142 2.30802
r113 80 162 26.1059
r114 74 162 3.26338
r115 74 162 29.3704
r116 73 139 4.57327
r117 72 142 4.57327
r118 72 73 33.0689
r119 71 139 2.30802
r120 71 161 26.1059
r121 65 161 3.26338
r122 65 161 29.3704
r123 64 136 4.57327
r124 63 139 4.57327
r125 63 64 33.0689
r126 62 136 2.30802
r127 62 160 26.1059
r128 56 160 3.26338
r129 56 160 29.3704
r130 55 133 4.57327
r131 54 136 4.57327
r132 54 55 33.0689
r133 53 133 2.30802
r134 53 159 26.1059
r135 47 159 3.26338
r136 47 159 29.3704
r137 45 46 17.1001
r138 43 130 4.57327
r139 43 45 17.1001
r140 42 133 4.57327
r141 41 130 2.30802
r142 41 158 26.1059
r143 35 158 3.26338
r144 35 158 29.3704
r145 34 127 4.57327
r146 33 130 4.57327
r147 33 34 33.0689
r148 32 127 2.30802
r149 32 157 26.1059
r150 26 157 3.26338
r151 26 157 29.3704
r152 25 124 4.57327
r153 24 127 4.57327
r154 24 25 33.0689
r155 23 124 2.30802
r156 23 156 26.1059
r157 17 156 3.26338
r158 17 156 29.3704
r159 16 121 4.57327
r160 15 124 4.57327
r161 15 16 33.0689
r162 14 121 2.30802
r163 14 155 26.1059
r164 8 155 3.26338
r165 8 155 29.3704
r166 1 42 33.9826
r167 1 46 17.1001
.ends

.subckt PM_INVD8%OUT 1 7 22 33 44 55 66 77 88 140 142 143 144 145 146 147 148
+ 149 150 151 152 153 154 155 156 157 158 159
r120 155 157 7.63148
r121 153 155 7.63148
r122 151 153 7.63148
r123 149 151 7.63148
r124 147 149 7.63148
r125 145 147 7.63148
r126 143 145 6.86834
r127 140 141 0.763148
r128 140 159 0.763148
r129 120 143 0.763148
r130 119 120 0.763148
r131 118 158 6.52456
r132 101 142 6.52456
r133 98 141 15.3504
r134 98 118 19.5802
r135 93 140 10.2406
r136 93 159 29.3704
r137 89 158 3.26338
r138 89 158 29.3704
r139 88 157 13.9714
r140 88 156 9.78903
r141 82 157 10.2406
r142 82 157 29.3704
r143 78 156 3.26338
r144 78 156 29.3704
r145 77 155 13.9714
r146 77 154 9.78903
r147 71 155 10.2406
r148 71 155 29.3704
r149 67 154 3.26338
r150 67 154 29.3704
r151 66 153 13.9714
r152 66 152 9.78903
r153 60 153 10.2406
r154 60 153 29.3704
r155 56 152 3.26338
r156 56 152 29.3704
r157 55 151 13.9714
r158 55 150 9.78903
r159 49 151 10.2406
r160 49 151 29.3704
r161 45 150 3.26338
r162 45 150 29.3704
r163 44 149 13.9714
r164 44 148 9.78903
r165 38 149 10.2406
r166 38 149 29.3704
r167 34 148 3.26338
r168 34 148 29.3704
r169 33 147 13.9714
r170 33 146 9.78903
r171 27 147 10.2406
r172 27 147 29.3704
r173 23 146 3.26338
r174 23 146 29.3704
r175 22 145 13.9714
r176 22 144 9.78903
r177 16 145 10.2406
r178 16 145 29.3704
r179 12 144 3.26338
r180 12 144 29.3704
r181 8 120 10.2406
r182 8 143 29.3704
r183 7 119 15.3504
r184 7 101 19.5802
r185 2 142 3.26338
r186 2 142 29.3704
r187 1 159 5.38783
r188 1 157 1.48051
.ends

.subckt PM_INVD8%IN 15 22 23 25 32 35 42 43 45 52 55 62 63 65 72 75 82 83 85 92
+ 97 104 105 107 114 117 124 125 127 134 137 144 145 147 154 157 164 165 167 174
+ 177 184 185 187 194 197 204 205 207 214 217 224 225 227 234 237 244 245 247
+ 254 302 303 304 305 306 307 308 309 310 311 312 313 314 315 316 317 318 319
+ 320 321 322 323 324 325 326
r182 334 336 0.17712
r183 328 331 0.17712
r184 326 334 0.092988
r185 326 331 0.084132
r186 253 254 0.62445
r187 253 325 0.62445
r188 247 254 0.624484
r189 246 277 0.231882
r190 245 247 0.252919
r191 245 246 0.53136
r192 243 244 0.62445
r193 243 324 0.62445
r194 237 277 0.0151417
r195 237 244 0.624484
r196 236 276 0.231882
r197 235 277 0.231882
r198 235 236 0.53136
r199 233 234 0.62445
r200 233 323 0.62445
r201 227 276 0.0151417
r202 227 234 0.624484
r203 226 275 0.231882
r204 225 276 0.231882
r205 225 226 0.53136
r206 223 224 0.62445
r207 223 322 0.62445
r208 217 275 0.0151417
r209 217 224 0.624484
r210 216 274 0.231882
r211 215 275 0.231882
r212 215 216 0.53136
r213 213 214 0.62445
r214 213 321 0.62445
r215 207 274 0.0151417
r216 207 214 0.624484
r217 206 273 0.231882
r218 205 274 0.231882
r219 205 206 0.53136
r220 203 204 0.62445
r221 203 320 0.62445
r222 197 273 0.0151417
r223 197 204 0.624484
r224 196 272 0.231882
r225 195 273 0.231882
r226 195 196 0.53136
r227 193 194 0.62445
r228 193 319 0.62445
r229 187 272 0.0151417
r230 187 194 0.624484
r231 186 271 0.231882
r232 185 272 0.231882
r233 185 186 0.53136
r234 183 184 0.62445
r235 183 318 0.62445
r236 177 271 0.0151417
r237 177 184 0.624484
r238 176 270 0.231882
r239 175 271 0.231882
r240 175 176 0.53136
r241 173 174 0.62445
r242 173 317 0.62445
r243 167 270 0.0151417
r244 167 174 0.624484
r245 166 269 0.231882
r246 165 270 0.231882
r247 165 166 0.53136
r248 163 164 0.62445
r249 163 316 0.62445
r250 157 269 0.0151417
r251 157 164 0.624484
r252 156 268 0.231882
r253 155 269 0.231882
r254 155 156 0.53136
r255 153 154 0.62445
r256 153 315 0.62445
r257 147 268 0.0151417
r258 147 154 0.624484
r259 146 267 0.231882
r260 145 268 0.231882
r261 145 146 0.53136
r262 143 144 0.62445
r263 143 314 0.62445
r264 137 267 0.0151417
r265 137 144 0.624484
r266 136 266 0.231882
r267 135 267 0.231882
r268 135 136 0.53136
r269 133 134 0.62445
r270 133 313 0.62445
r271 127 266 0.0151417
r272 127 134 0.624484
r273 126 265 0.231882
r274 125 266 0.231882
r275 125 126 0.53136
r276 123 124 0.62445
r277 123 312 0.62445
r278 117 265 0.0151417
r279 117 124 0.624484
r280 116 264 0.231882
r281 115 265 0.231882
r282 115 116 0.53136
r283 113 114 0.62445
r284 113 311 0.62445
r285 107 264 0.0151417
r286 107 114 0.624484
r287 106 263 0.231882
r288 105 264 0.231882
r289 105 106 0.53136
r290 103 104 0.62445
r291 103 310 0.62445
r292 97 263 0.0151417
r293 97 104 0.624484
r294 95 96 1.06272
r295 94 262 0.231882
r296 94 95 1.06272
r297 93 263 0.231882
r298 93 96 1.06272
r299 91 92 0.62445
r300 91 309 0.62445
r301 85 262 0.0151417
r302 85 92 0.624484
r303 84 261 0.231882
r304 83 262 0.231882
r305 83 84 0.53136
r306 81 82 0.62445
r307 81 308 0.62445
r308 75 261 0.0151417
r309 75 82 0.624484
r310 74 260 0.231882
r311 73 261 0.231882
r312 73 74 0.53136
r313 71 72 0.62445
r314 71 307 0.62445
r315 65 260 0.0151417
r316 65 72 0.624484
r317 64 259 0.231882
r318 63 260 0.231882
r319 63 64 0.53136
r320 61 62 0.62445
r321 61 306 0.62445
r322 55 259 0.0151417
r323 55 62 0.624484
r324 54 258 0.231882
r325 53 259 0.231882
r326 53 54 0.53136
r327 51 52 0.62445
r328 51 305 0.62445
r329 45 258 0.0151417
r330 45 52 0.624484
r331 44 257 0.231882
r332 43 258 0.231882
r333 43 44 0.53136
r334 41 42 0.62445
r335 41 304 0.62445
r336 35 257 0.0151417
r337 35 42 0.624484
r338 34 256 0.231882
r339 33 257 0.231882
r340 33 34 0.53136
r341 31 32 0.62445
r342 31 303 0.62445
r343 25 256 0.0151417
r344 25 32 0.624484
r345 24 255 0.231882
r346 23 256 0.231882
r347 23 24 0.53136
r348 21 22 0.62445
r349 21 302 0.62445
r350 15 255 0.0151417
r351 15 22 0.624484
r352 13 255 0.231882
r353 13 14 1.19556
r354 11 12 0.367524
r355 10 336 1
r356 10 11 0.367524
r357 8 334 1
r358 8 10 0.17712
r359 6 331 1
r360 6 8 0.17712
r361 3 328 1
r362 3 6 0.17712
r363 1 14 0.311719
r364 1 12 0.367524
.ends

